US04958037
7-Cyano-1-(2-furyl)-1-methoxy-3-heptyne
A stirred mixture of 0.45 g of 7-chloro-1-(2-furyl)-1-methoxy-3-heptyne, 0.20 g of sodium cyanide, and 4.0 ml of hexamethylphosphoric triamide was maintained at 25° C. for 22 hours. The mixture was partitioned with water and 1:1 hexaneether. The organic layer was washed with water and brine, dried and concentrated. The resulting oil was distilled at 0.30 mm on a Kugelrohr at 105°-110° C., giving 0.38 g of the desired compound as an oil; PMR δ 2.36 (2H, t, CH2CN).

reactant | 7-chloro-1-(2-furyl)-1-methoxy-3-heptyne | 0.45 g | ClCCCC#CCC(OC)C=1OC=CC1 | C12H15ClO2
reactant | sodium cyanide | 0.20 g | [C-]#N.[Na+]
solvent | hexamethylphosphoric triamide | 4.0 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 7-Cyano-1-(2-furyl)-1-methoxy-3-heptyne | 0.38 g | C(#N)CCCC#CCC(OC)C=1OC=CC1 | C13H15NO2
